US06664293B2
To a solution of indan-2-ylamine (0.297 g) in dichloromethane (5 ml) were added in turn pyridine (0.23 ml) and 4-fluorobenzoyl chloride (0.26 ml) at 0° C. The mixture was allowed to warm to ambient temperature and stirred for 1 hour, which was taken up into a mixture of water and ethyl acetate. The separated organic layer was washed in turn with hydrochloric acid (1N), aqueous sodium hydrogen carbonate and brine, and dried over magnesium sulfate. Evaporation under reduced pressure gave a residue, which was triturated with diisopropyl ether to give 4-fluoro-N-(indan-2-yl)benzamide (0.325 g).

reactant | indan-2-ylamine | 0.297 g | C1C(CC2=CC=CC=C12)N | C9H11N
reactant | pyridine | 0.23 ml | N1=CC=CC=C1 | C5H5N
reactant | 4-fluorobenzoyl chloride | 0.26 ml | FC1=CC=C(C(=O)Cl)C=C1 | C7H4ClFO
reactant | water | O | H2O
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-fluoro-N-(indan-2-yl)benzamide | 0.325 g | FC1=CC=C(C(=O)NC2CC3=CC=CC=C3C2)C=C1 | C16H14FNO
